US06239142B1
N-(4-Chlorobenzyl)-7-[2-(diethylamino)ethyl]-2-(3-hydroxy-1-propynyl)-4-oxo-4,7-dihydrothieno[2,3-b]pyridine-5-carboxamide hydrochloride
To a solution of N-(4-chlorobenzyl)-4-hydroxy-2-(3-hydroxy-1-propynyl)thieno[2,3-b]pyridine-5-carboxamide (Example No. 5) (0.300 g) in DMF (4 mL) is added K2CO3 (0.334 g) and 2-bromo-N,N-diethylethylamine hydrobromide (0.420 g). The reaction is heated to 90° C. After 4.5 h, an additional 0.111 g of K2CO3 is added and the reaction is stirred at 90° C. for 3 d. An additional 0.210 g of 2-bromo-N,N-diethylamine hydrobromide and 0.111 g of K2CO3 are added and the reaction is stirred for an additional 5 h. The reaction mixture is added to H2O and then concentrated in vacuo. The resulting brown solid is purified via column chromatography (CH2Cl2:CH3OH; 98:2, 95:5). The resulting yellow solid is dissolved in methanolic HCl and concentrated in vacuo. The salt is recrystallized twice from ethanol to yield 0.080 g (20%) of the title compound as a pale yellow solid.

reactant | N-(4-chlorobenzyl)-4-hydroxy-2-(3-hydroxy-1-propynyl)thieno[2,3-b]pyridine-5-carboxamide | ClC1=CC=C(CNC(=O)C=2C(=C3C(=NC2)SC(=C3)C#CCO)O)C=C1 | C18H13ClN2O3S
reactant | K2CO3 | 0.334 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 2-bromo-N,N-diethylethylamine hydrobromide | 0.420 g | Br.BrCCN(CC)CC
reactant | K2CO3 | 0.111 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 2-bromo-N,N-diethylamine hydrobromide | 0.210 g | Br.BrCCNCC
reactant | K2CO3 | 0.111 g | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
solvent | H2O | O | H2O
product | N-(4-Chlorobenzyl)-7-[2-(diethylamino)ethyl]-2-(3-hydroxy-1-propynyl)-4-oxo-4,7-dihydrothieno[2,3-b]pyridine-5-carboxamide hydrochloride | 0.080 g, 20% | Cl.ClC1=CC=C(CNC(=O)C=2C(C3=C(N(C2)CCN(CC)CC)SC(=C3)C#CCO)=O)C=C1 | InChI=1S/C24H26ClN3O3S.ClH/c1-3-27(4-2)11-12-28-16-21(23(31)26-15-17-7-9-18(25)10-8-17)22(30)20-14-19(6-5-13-29)32-24(20)28;/h7-10,14,16,29H,3-4,11-13,15H2,1-2H3,(H,26,31);1H
